US05166214
Preparation of N'-(2.4-difluorophenyl)-N-heptyl-N-[5-(1-methyl-4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]urea
To a solution of potassium carbonate (0.056 g, 0.00042 mol) in dry tetrahydrofuran (10 mL) was added, portionwise as a solid, N'-(2,4-difluorophenyl)-N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N-heptylurea (0.25 g, 0.00042 mol) and the reaction mixture was stirred at ambient temperature for 10 minutes. To this reaction mixture was added, dropwise, methyl iodide (0.039 mL, 0.0895 g, 0.00063 mol) and the reaction mixture was stirred for 18 hours at ambient temperature. The reaction mixture was then treated with N,N-dimethylformamide (1.0 mL) and methyl iodide (0.1 mL) and the reaction mixture was stirred at reflux for an additional 24 hours. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate and concentrated under vacuum. The residue was chromatographed with 3:7 hexane-ethyl acetate to give the title compound (0.13 g, 0.00022 mol) as a yellow oil. 1H NMR (CDCl3) δ8.1-8.0(m,1H), 7.5-7.1(m,10H), 6.9-6.7(m,2H), 6.4(s,1H), 3.5(s,3H), 3.4-3.2(m,5H), 1.9-1.2(m,17H), 0.9(t,3H,J=8Hz).

reactant | potassium carbonate | 0.00042 mol, 0.056 g | C([O-])([O-])=O.[K+].[K+]
reactant | N'-(2,4-difluorophenyl)-N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N-heptylurea | 0.00042 mol, 0.25 g | FC1=C(C=CC(=C1)F)NC(N(CCCCCCC)CCCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H40F2N4OS
reactant | methyl iodide | 0.00063 mol, 0.039 mL, 0.0895 g | CI | CH3I
reactant | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.1 mL | CI | CH3I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N'-(2.4-difluorophenyl)-N-heptyl-N-[5-(1-methyl-4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]urea | 0.00022 mol, 0.13 g | FC1=C(C=CC(=C1)F)NC(N(CCCCCSC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C)CCCCCCC)=O | C35H42F2N4OS
